US07282512B2
Preparation of (1-{[(3-phenyl-1,2,4-thiadiazol-5-yl)oxy]methyl}cyclobutyl)methanol
The title compound was prepared using the same experimental procedure as in example 25a from [1-(hydroxymethyl)cyclobutyl]methanol and 5-chloro-3-phenyl-1,2,4-thiadiazole. 1H NMR (300 MHz, CDCl3) δ 8.10 (m, 2H), 7.39 (m, 3H), 4.63 (s, 2H), 3.62 (d, J=6 Hz, 2H), 2.71 (t, J=6 Hz, 1H), 1.88-1.97 (m, 6H). GC-MS m/z 277 (M+H).

reactant | [1-(hydroxymethyl)cyclobutyl]methanol | OCC1(CCC1)CO | C6H12O2
reactant | 5-chloro-3-phenyl-1,2,4-thiadiazole | ClC1=NC(=NS1)C1=CC=CC=C1 | C8H5ClN2S
product | (1-{[(3-phenyl-1,2,4-thiadiazol-5-yl)oxy]methyl}cyclobutyl)methanol | C1(=CC=CC=C1)C1=NSC(=N1)OCC1(CCC1)CO | C14H16N2O2S
